US06482787B1
Synthesis of the Adduct of Piperazine/Morpholine/epi, in a Ratio of 1.810.8/2.0 100% Oxidized
Into a round bottom flask equipped with stirrer, thermometer, dropping funnel and reflux condenser were weighed 154.8 g (1.8 mole) of piperazine and 69.6 g (0.8 mole) of morpholine and 220 ml of water. After a clear solution at 40° C. was obtained, the solution was heated to 55-65° C. and with vigorous stirring 185 g (2 mole) of epichlorohydrin were added at such a rate, that the temperature did not exceed 80° C. After all the epichlorohydrin had been added the reaction mixture was heated to 85° C. until all of the alkylating agents had been consumed (negative Preussmann test after 4 hours). 108.8 g (0.68 mole) of 25% NaOH and 40 g of water were added and the reaction mixture was stirred for another hour at 85° C. Then additional 47 g of water were added and the mixture was allowed to cool to room temperature. 233.6 g (equivalent to 1,292 mole oxidizable nitrogen atoms) were mixed with 22.1 g (0.276) of 50% NaOH and then heated to 55-65° C. At that temperature 102.4 g (1,421 mole) of H202 (47.2%) were added dropwise over a period of 3.5 hours. After the addition was completed, the reaction mixture was heated held at the same temperature for 3 more hours and was then stirred at room temperature overnight. Pt/C was added, unreacted H202 destroyed and the solution then filtered.

reactant | piperazine | 1.8 mole, 154.8 g | N1CCNCC1 | C4H10N2
reactant | morpholine | 0.8 mole, 69.6 g | N1CCOCC1 | C4H9NO
reactant | epichlorohydrin | 2 mole, 185 g | C(Cl)C1CO1 | C3H5ClO
reactant | NaOH | 0.68 mole, 108.8 g | [OH-].[Na+]
reactant | NaOH | 22.1 g | [OH-].[Na+]
catalyst | Pt/C | [Pt] | Pt
solvent | water | 47 g | O | H2O
solvent | water | 40 g | O | H2O
solvent | water | 220 ml | O | H2O
product | Piperazine Morpholine | N1CCNCC1.N1CCOCC1 | InChI=1S/C4H10N2.C4H9NO/c1-2-6-4-3-5-1;1-3-6-4-2-5-1/h5-6H,1-4H2;5H,1-4H2
